US04372957
2,4-Diamino-5-methyl-6-(2,5-dimethoxybenzyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine (8 g) was chlorinated by treatment with Vilsmeier reagent prepared by slowly adding thionyl chloride (28.6 ml) in dry chloroform (25 ml) to a solution of dimethylformamide (17.5 ml) in chloroform (100 ml) at 0°-5° C. The cold mixture of the pyridopyrimidine and Vilsmeier reagent was stirred, gradually allowed to reach ambient temperature and then heated at reflux for 3 hours. It was then treated with ethanolic base (80 ml) maintaining the temperature at 25°-30° C. with cooling. The brown product formed was isolated, treated further with aqueous ammonia and then recrystallized from ethanol to give 2,4-diamino-5-methyl-6-(2,5-dimethoxybenzyl)-7-chloro-pyrido[2,3-d]pyrimidine, m.p. 193°-196° (dec.).

reactant | 2,4-Diamino-5-methyl-6-(2,5-dimethoxybenzyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidine | 8 g | NC=1N=C(C2=C(N1)NC(C(=C2C)CC2=C(C=CC(=C2)OC)OC)=O)N | C17H19N5O3
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | thionyl chloride | 28.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridopyrimidine | N1=CN=CC2=C1C=CC=N2 | C7H5N3
reactant | ammonia | N | H3N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 17.5 ml | CN(C=O)C | C3H7NO
product | 2,4-diamino-5-methyl-6-(2,5-dimethoxybenzyl)-7-chloro-pyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=C(C(=C2C)CC2=C(C=CC(=C2)OC)OC)Cl)N | C17H18ClN5O2
